US08541419B2
Step 2: Synthesis of methyl [4,6-dihydroxy-2-(4-nitrobenzyl)-pyrimidin-5-yl]acetate
A 250 mL round bottom flask was charged with 2-(4-nitrophenyl)ethanimidamide hydrochloride (approximately 6.47 g, 30.0 mmol, 48% purity), triethyl ethane-1,1,2-tricarboxylate (7.60 mL, 33.0 mmol) and methanol (43 mL). To this solution was added a 25% sodium methoxide solution in methanol (24.0 mL, 105.2 mmol) immediately resulting in a dark purple thick suspension. After stirring for three hours under reflux the dark purple mixture was cooled to 0° C. using an ice bath and carefully treated with 30 mL water. This mixture was slowly treated with 35 mL 6N hydrochloric acid giving a pale green suspension. The suspension was stirred for additional 30 minutes, filtered and the obtained fawn solid was washed with 100 mL water. The product was dried in a desiccator under vacuum for two days. The crude product was used without purification in the next step.

reactant | 2-(4-nitrophenyl)ethanimidamide hydrochloride | 30.0 mmol, approximately 6.47 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC(N)=N
reactant | triethyl ethane-1,1,2-tricarboxylate | 33.0 mmol, 7.60 mL | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 6N, 35 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | methanol | 43 mL | CO | CH4O
solvent | methanol | 105.2 mmol, 24.0 mL | CO | CH4O
product | methyl [4,6-dihydroxy-2-(4-nitrobenzyl)-pyrimidin-5-yl]acetate | OC1=NC(=NC(=C1CC(=O)OC)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H13N3O6
